US06960601B2
To a solution of 4-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}thiomorpholine (Table entry 176) (30 mg, 0.072 mmol) in acetone (2 mL), was added 30% aqueous H2O2 (0.09 mmol). The resulting solution was stirred at rt for 36 h, diluted with water, neutralized with NaHCO3, and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography (20% MeOH in EtOAc) to give the product 4-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}thiomorpholine 1-oxide (17 mg, 54% yield): LC-MS m/z 434.5 (MH+), retention time 2.55 min (method 1); Rf=0.47 (17% EtOAc in hexane).

reactant | 4-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}thiomorpholine | 0.072 mmol, 30 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N1CCSCC1)C1=CC=C(C=C1)Cl | C20H17Cl2N3OS
reactant | H2O2 | 0.09 mmol | OO | H2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}thiomorpholine 1-oxide | 17 mg, 54% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N1CCS(CC1)=O)C1=CC=C(C=C1)Cl | C20H17Cl2N3O2S
